US04225533
To a mixture of 3-(4-chlorophenoxy)-2,2-dimethylcyclopropanecarboxylic acid (2.77 mmol), potassium carbonate (3.25 mmol) and hexamethylphosphoric triamide (HMPT) (3 ml), with stirring and under nitrogen, at RT, is added 2-fluoro-5-phenoxybenzyl bromide (2.77 mmol) in THF. The reaction is stirred at RT for about 48 hours and then worked up by partition between water/ether. The organic phase is washed with water and brine, dried over potassium carbonate, filtered and the solvent is removed from the filtrate. The residue is plated on prep. TLC plates developing with 10% ether/hexane to yield 2-fluoro-5-phenoxybenzyl 3-(4-chlorophenoxy)-2,2-dimethylcyclopropanecarboxylate.

reactant | 3-(4-chlorophenoxy)-2,2-dimethylcyclopropanecarboxylic acid | 2.77 mmol | ClC1=CC=C(OC2C(C2C(=O)O)(C)C)C=C1 | C12H13ClO3
reactant | potassium carbonate | 3.25 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | hexamethylphosphoric triamide | 3 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | 2-fluoro-5-phenoxybenzyl bromide | 2.77 mmol | FC1=C(CBr)C=C(C=C1)OC1=CC=CC=C1 | C13H10BrFO
solvent | THF | C1CCOC1 | C4H8O
product | 2-fluoro-5-phenoxybenzyl 3-(4-chlorophenoxy)-2,2-dimethylcyclopropanecarboxylate | ClC1=CC=C(OC2C(C2C(=O)OCC2=C(C=CC(=C2)OC2=CC=CC=C2)F)(C)C)C=C1 | C25H22ClFO4
